US20010053859A1
A 2 L 3-necked flask was charged with pyrrolidine (56 mL, 0.67 mol) and dry THF (453 g) under a nitrogen atmosphere. n-Butyllithium (419 mL, 1.6 M hexane solution, 0.67 mol) was added dropwise at a temperature between -20 and -25° C. over a period of 1 hour. The solution was maintained at this temperature for 30 minutes and then cooled to -55 to -60° C. A solution of lovastatin hemiphenylboronate (101.7 g, 0.20 mol) in 274.7 g of THF was cooled to a temperature of −50° C. and then added to the cold lithium pyrrolidide solution at a rate such that the internal temperature was between −50 and −55° C. during the addition. The reaction was held at this temperature for 4 hours and then methyl iodide (116.4 g, 0.82 mol) was added at a temperature below −55° C. The reaction was stirred for 13 hours at −15 to −20° C. and then quenched with 500 mL of 2M HCl at a temperature below 0° C. After warming to 20° C., the layers were separated and the aqueuous layer was extracted with ethyl acetate. The combined organic layers were washed with 5% NaHSO3 solution and deionized water. The solution was filtered through a Celite pad and concentrated to yield 102.8 g (98.4%) of crude simvastatin hemiphenylboronate at >95% purity by HPLC. A portion of the above material (50.0 g) was charged into a nitrogen purged flask with acetonitrile (100 mL). The suspension was heated at 110 ° C. for 3 hours and then cooled to −5 to −10° C. for 1 hour. The product was filtered and washed with 25 mL of −5° C. acetonitrile and dried under vacuum to provide 43.7 g of simvastatin hemiphenylboronate at >99% purity by HPLC.

reactant | pyrrolidine | 0.67 mol, 56 mL | N1CCCC1 | C4H9N
reactant | n-Butyllithium | 0.67 mol, 1.6 M, 419 mL | C(CCC)[Li]
reactant | lovastatin | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C24H36O5
reactant | methyl iodide | 0.82 mol, 116.4 g | CI | CH3I
solvent | THF | 274.7 g | C1CCOC1 | C4H8O
solvent | THF | 453 g | C1CCOC1 | C4H8O
product | simvastatin | 102.8 g, 98.4% | CCC(C)(C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C25H38O5
